Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bee Sting Kit
 
Attending: ___.
 
Chief Complaint:
Chest pain, dysphagia
 
Major Surgical or Invasive Procedure:
Thoracentesis
Chest tube placement

 
History of Present Illness:
___ with known ascending aortic aneurysm & stage IIIA LUL NSCLC 
s/p induction chemotherapy (2x 4 week cycles 
cisplatin/etoposide)and radiation (completed ___ and 
___ respectively), transferred from OSH because of 
mediastinal widening on CXR concerning for dissection.  He was 
previously scheduled to undergo a lobectomy with Dr. ___ 
on ___ but sought a second opinion at ___ (Dr. 
___. While there, he underwent a mediastinoscopy 
on ___. Per patient, they were able to biopsy the right side 
nodes but not the left side due to scarring likely secondary to 
radiation. He subsequently underwent CT guided biopsy of left 
lung nodes on ___ which was c/b left pneumothorax s/p chest 
tube.  He now presents with 1 day of right side chest pain that 
radiated down his right arm with arm numbness, SOB and 
odynophagia that started while eating dinner on ___ night. He 
also admits a new cough which worsens the pain. He went to ___ 
___ where 2 sets of trops were noted to be negative 
but CXR was concerning for mediastinal widening. He was then 
transferred to ___ for further management due to concern for 
aneurysmal leak vs. bleeding secondary to recent instrumentation 
of his chest.  

In the ED, initial vital signs were: T 97 HR 80 117/80 16 97% RA 
 
 - Exam was notable for: pt well appearing  
 - Labs were notable for: stable H/H.  
 - Imaging: CTA showed new mediastinal hematoma. No dissection 
or rupture of aneurysm.  
 - The patient was given: 1L NS  
 - Consults: Thoracic surg saw pt and did not recommend surgery 
for the mediastinal hematoma. They recommended C-surg consult 
for aortic aneurysm. IP was consulted and considered CT 
placement on floor.  
 - Vitals prior to transfer were: 98.1 74 140/84 18 100% RA  
 
Upon arrival to the floor, the patient notes chest pain only 
with swallowing and when palpating a certain spot on left medial 
chest. He is otherwise without complaint. No shortness of 
breath, fever, chill, dizziness, fatigue, bleeding.  
 
Past Medical History:
HTN, asthma, occipital migraines, h/o basal cell and squamous 
cell skin ca and "premelanoma" on nose ___. Thoracic aortic 
aneurysm, yearly followup. Seasonal allergies.  TIA ___: 
Presented with transient Broca's aphasia ___. In ED head CT 
and MRI neg. Carotid u/s, holter, echo neg. Dr. ___ that 
this was indeed a TIA and he should remain on aggrenox and 
lipitor.  PAST SURGICAL HISTORY: Shoulder, hernia, knee, 
appendectomy, Moh's ___.
 
Social History:
___
Family History:
Mother had breast cancer in her ___, maternal uncles had lung 
cancer they were all smokers. MGF had cancer, not sure. Father 
survived colon cancer (diagnosed in ___). Has one sister, 
recently diagnosed with breast cancer in her ___.
 
Physical Exam:
ON ADMISSION:
=============
VITALS: 97.6, 126/75, HR 71, RR 18, O2 99% RA, 102.9kg  
GEN: Pleasant, well-appearing, in no apparent distress  
HEENT: Supple, JVD flat. NC/AT, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear  
CARDIAC: RRR, normal S1/S2, no m/r/g.
PULM: CTAB, no wheezes or crackles.
ABD: Soft, NTND, BS+.
EXTR: WWP, no c/c/e.
NEURO: A&Ox3, CN II-XII grossly normal, normal sensation, with 
strength ___ throughout. 
PSYCH: Listen & responds to questions appropriately, pleasant  

ON DISCHARGE:
=============
VITALS: T 97.9   BP 108-126/61-70s  HR 60-66   RR 16   SaO2 97% 
on RA   
WT: 101.7 kg
Chest tube: Draining serosanguinous fluid, approximately 350cc 
(___), 50cc (___). Chest tube removed this AM. Occlusive gauze 
dressing over posterolateral chest with tegaderm c/d/i.
GEN: Pleasant, well-appearing, in no apparent distress  
HEENT: Supple, JVD flat. NC/AT, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear  
CARDIAC: RRR, normal S1/S2, no m/r/g.
PULM: CTAB, no wheezes or crackles.   
ABD: Soft, NTND, BS+.
EXTR: WWP, no c/c/e.
NEURO: A&Ox3, CN II-XII grossly normal.   
 
Pertinent Results:
ADMISSION LABS:
===============
___ 07:05AM BLOOD WBC-9.1 RBC-3.41*# Hgb-10.4*# Hct-32.1*# 
MCV-94 MCH-30.5 MCHC-32.4 RDW-13.4 RDWSD-46.1 Plt ___
___ 07:05AM BLOOD Neuts-83.4* Lymphs-6.0* Monos-6.6 Eos-3.1 
Baso-0.5 Im ___ AbsNeut-7.58*# AbsLymp-0.55* AbsMono-0.60 
AbsEos-0.28 AbsBaso-0.05
___ 07:05AM BLOOD ___ PTT-27.4 ___
___ 07:05AM BLOOD Glucose-94 UreaN-26* Creat-1.1 Na-138 
K-3.7 Cl-104 HCO3-24 AnGap-14
___ 07:05AM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD cTropnT-<0.01
___ 07:05AM BLOOD Calcium-9.5 Phos-3.1 Mg-2.1

OTHER STUDIES:
===============
CXR ___
IMPRESSION: Compared to prior chest radiographs ___ and 
___. Increased elevation left hemidiaphragm above the 
distended stomach.  Follow-up advised.  Lungs grossly clear.  
Heart size top-normal unchanged.  No interval increase in upper 
mediastinal widening due to hemorrhage.  No pneumothorax.  Left 
basal pleural drain still in place. 

CTA ___  
IMPRESSION:  
1. New large mediastinal hematoma extends from superior 
mediastinum to subcarinal region, with new widening of the 
mediastinum since CXR from ___.  No evidence of active 
extravasation or aortic dissection. 
2. Known ascending aortic aneurysm measuring up to 5.0 cm 
without evidence of dissection. 
3. No evidence of pulmonary embolism. 

ESOPHAGRAM ___:
FINDINGS:  The esophagus was not dilated. There was no stricture 
within the esophagus. There was no esophageal mass. The 
esophageal mucosa appear normal. The primary peristaltic wave 
appears weak and breaks in the mid esophagus resulting in 
proximal escape of contrast.  Secondary and tertiary 
contractions eventually clear the esophagus.  The lower 
esophageal sphincter opened and closed normally. There was 
moderate spontaneous gastroesophageal reflux.  There was no 
hiatal hernia. No overt abnormality in the stomach or duodenum 
on limited evaluation. 
IMPRESSION:    
1.  Mild esophageal dysmotility.  
2.  Moderate spontaneous gastroesophageal reflux. No hiatal 
hernia. 

DISCHARGE LABS:
================
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD ___ PTT-25.8 ___
___ 07:15AM BLOOD Glucose-88 UreaN-20 Creat-1.0 Na-137 
K-4.1 Cl-105 HCO3-23 AnGap-13
___ 07:15AM BLOOD LD(LDH)-210
___ 07:15AM BLOOD TotProt-5.4* Albumin-3.3* Globuln-2.___ PMH ascending aortic aneurysm and Stage 3a LUL NSCLC s/p 
chemo/XRT ___ now s/p mediastinoscopy and CT-guided biopsy c/b 
PTX at OSH who presents with dysphagia and chest pain, found on 
CTA to have a mediastinal hematoma and new L > R bilateral 
pleural effusions. 

# Mediastinal hematoma: CTA revealed a mediastinal hematoma. 
Repeat CXR did not reveal progression or expansion of the 
hematoma, and thoracic surgery did not recommend surgical 
intervention was needed. Patient's aspirin-dipyridamole was held 
in setting of work-up, but H/H remained stable without any 
evidence of active bleeding throughout the patient's 
hospitalization and it was thought the acute H/H drop was likely 
a result of prior instrumentation. Aspirin-dipyridamole was 
restarted on discharge given strong indication (hx of TIA) and 
clinical stability. 

# Ascending aortic aneurysm: Measuring 4.8 cm on MRA ___ to 
5.0cm on CTA ___. CTA did not reveal any evidence of 
dissection. Thoracic surgery and cardiac surgery evaluated the 
patient and felt surgical intervention is not warranted at this 
time. On discharge, should obtain surveillance CTA every 6 
months to evaluate ascending aortic aneurysm. 

# Pleural effusion: CTA demonstrated new L>R bilateral pleural 
effusions. Patient underwent thoracentesis and ___ chest tube 
placement to water seal on ___ by interventional 
pulmonology. The chest tube produced 420ml. PFA consistent with 
eospinophilic exudate, no CPE in the setting of prior presence 
of air/blood. Cytology pending on discharge.

# Dysphagia/odynophagia: Patient underwent barium swallow that 
revealed mild esophageal dysmotility and moderate spontaneous 
gastroesophageal reflux. Patient prescribed sucralfate on 
discharge.

# ___ s/p XRT/chemo: Followed by Dr. ___ at ___ 
___. Patient continued crizotinib while hospitalized.

# h/o TIA ___: Continued statin, but held aspirin-dipyridamole 
given mediastinal hematoma.

# HTN: Continued losartan-hydrochlorothiazide.  

======================
TRANSITIONAL ISSUES:
======================
# Medication changes:
- Please resume aspirin-dipyridamole on discharge from the 
hospital
# Chest-tube care:
- The occlusive dressing can be removed on ___
# Follow-up:
- Surveillance CTA every 6 months to evaluate ascending aortic 
aneurysm
- Repeat CXR given elevation for left hemi-diaphragm
- If ___ needed upon d/c consider ___ of ___ & ___ @ ___. 
This agency is out of ___.
- Interventional pulmonology will be following pending pleural 
fluid tests on ___ and if cytology is positive they will 
schedule follow up with patient. 
- If the pleural fluid cytology returns positive or there is 
recurrence of the pleural effusion, patient should follow up at 
the ___ or with the interventional pulmonologist at 
___, Dr. ___.
# CONTACT: (Wife) ___ (___) 
# CODE STATUS: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. crizotinib 250 mg oral Q12H 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
3. aspirin-dipyridamole ___ mg oral BID 
4. Atorvastatin 20 mg PO QPM 
5. losartan-hydrochlorothiazide 50-12.5 mg oral QHS 
6. flaxseed 1,000 mg oral DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergies 
8. Multivitamins 1 TAB PO DAILY 
9. azelastine 0.15 % (205.5 mcg) nasal BID 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN shortness of breath 
2. Atorvastatin 20 mg PO QPM 
3. crizotinib 250 mg oral Q12H 
4. aspirin-dipyridamole ___ mg oral BID 
5. azelastine 0.15 % (205.5 mcg) nasal BID 
6. flaxseed 1,000 mg oral DAILY 
7. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergies 
8. losartan-hydrochlorothiazide 50-12.5 mg oral QHS 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Mediastinal hematoma
Ascending aortic aneurysm
Pleural effusion
Dysphagia

Secondary Diagnosis:
___
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you at ___. You were 
admitted to the hospital for chest pain and symptoms with 
swallowing.  You were found on imaging to have a blood clot 
(hematoma) in your chest and some fluid in your lungs called a 
pleural effusion.  This was likely the cause of your 
intermittent chest discomfort.  You underwent a procedure called 
a thoracentesis and a chest tube was placed to drain the fluid 
from your lungs.  The chest tube was removed the following day 
after the fluid from your lungs stopped draining, and your 
symptoms improved.  Cardiac surgery evaluated your aortic 
aneurysm and it was felt that no surgical intervention was 
needed at this time.  Dr. ___ that you obtain a 
surveillance CTA every 6 months to evaluate your aortic 
aneurysm.  For your symptoms with swallowing (odynophagia), you 
underwent an esophagram which showed mild dysmotility of your 
esophagus and some moderate reflux.  

Please follow-up with your primary care provider after you are 
discharged from the hospital. 

It was a pleasure to take care of you,
-- Your ___ Care Team

 
Followup Instructions:
___